US07696195B2
2.3c) (R)-2-(1′-benzyl-4,4′-bipiperidinyl-1-yl)-1-(7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 120 mg (0.22 mmol) (R)-1-carboxy-2-(7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 85 mg (0.27 mmol) TBTU and 50 μL (0.36 mmol) triethylamine in 10 mL THF and 1 mL DMF was stirred for 1 h at RT, then combined with 80 mg (0.31 mmol) 1-benzyl-[4,4′]bipiperidinyl and stirred overnight at RT. The reaction solution was combined with 1 mL saturated Na2CO3 solution and extracted with 100 mL EtOAc. The organic phase was dried over Na2SO4, filtered and evaporated down i.vac. The residue was purified via HPLC, the fractions containing the product were combined and evaporated to dryness i.vac.

reactant | (R)-1-carboxy-2-(7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.22 mmol, 120 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC=N3)C(=C1)C)C(=O)O)C=CC=C2 | C26H29N5O5
reactant | TBTU | 0.27 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.36 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | 1-benzyl-[4,4′]bipiperidinyl | 0.31 mmol, 80 mg | C(C1=CC=CC=C1)N1CCC(CC1)C1CCNCC1 | C17H26N2
reactant | Na2CO3 | 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-2-(1′-benzyl-4,4′-bipiperidinyl-1-yl)-1-(7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC1=CC=CC=C1)CC1=CC3=C(NC=N3)C(=C1)C)C=CC=C2 | C43H53N7O4
